US07183425B2
N-(2,2,2-TRIFLUORO-1-PHENYLETHYLIDENE)-L-VALINE POTASSIUM SALT
2,2,2-Trifluoroacetophenone (4.24 g, 24.3 mmol) was added to a mixture of L-valine ethyl ester (3.21 g, 22.1 mmol) and K2CO3 (2.90 g, 20.9 mmol) in MeOH (50 mL). The mixture was warmed to 50° C. for 18 h. The mixture was cooled to 20–25° C., filtered and concentrated. The residue was suspended in TBME (100 ml) and filtered to give the title compound as a white solid.

reactant | 2,2,2-Trifluoroacetophenone | 24.3 mmol, 4.24 g | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | L-valine ethyl ester | 22.1 mmol, 3.21 g | C(C)OC([C@@H](N)C(C)C)=O | C7H15NO2
reactant | K2CO3 | 20.9 mmol, 2.90 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 50 mL | CO | CH4O
product | N-(2,2,2-TRIFLUORO-1-PHENYLETHYLIDENE)-L-VALINE POTASSIUM SALT | [K+].FC(C(C1=CC=CC=C1)=N[C@@H](C(C)C)C(=O)[O-])(F)F | InChI=1S/C13H14F3NO2.K/c1-8(2)10(12(18)19)17-11(13(14,15)16)9-6-4-3-5-7-9;/h3-8,10H,1-2H3,(H,18,19);/q;+1/p-1/t10-;/m0./s1
